### PR TITLE
[Merged by Bors] - feat(Computability/DFA): implement `isRegular_iff`

### PR DESCRIPTION
**Pull request by lambda-fairy**
An alternative is to use `Fin` and `Fintype.equivFin`, which are available via the existing import of `Data.Fintype.Card`. However, since `Fin _ : Type 0`, it needs to be wrapped in `ULift` to be universe-polymorphic, so the result is messier than the `Small` approach.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/DFA.lean [hunk 1]
```diff
@@ -250,6 +251,20 @@ end DFA
 def Language.IsRegular {T : Type u} (L : Language T) : Prop :=
   ∃ σ : Type, ∃ _ : Fintype σ, ∃ M : DFA T σ, M.accepts = L
 
-proof_wanted Language.isRegular_iff {T : Type u} {L : Language T} :
-    L.IsRegular ↔ ∃ σ : Type v, ∃ _ : Fintype σ, ∃ M : DFA T σ, M.accepts = L
--- probably needs `import Mathlib.Data.Countable.Small`
+/-- Lifts the state type `σ` inside `Language.IsRegular` to a different universe. -/
+private lemma Language.isRegular_iff.helper.{v'} {T : Type u} {L : Language T}
+    (h : ∃ σ : Type v, ∃ _ : Fintype σ, ∃ M : DFA T σ, M.accepts = L) :
```
Comment (madvorak) [inline Mathlib/Computability/DFA.lean:256]:
```suggestion
    (hL : ∃ σ : Type v, ∃ _ : Fintype σ, ∃ M : DFA T σ, M.accepts = L) :
```

File: Mathlib/Computability/DFA.lean [hunk 2]
```diff
@@ -250,6 +251,20 @@ end DFA
...
+    ∃ σ' : Type v', ∃ _ : Fintype σ', ∃ M : DFA T σ', M.accepts = L :=
+  have ⟨σ, _, M, hM⟩ := h
```
Comment (madvorak) [inline Mathlib/Computability/DFA.lean:258]:
```suggestion
  have ⟨σ, _, M, hM⟩ := hL
```

File: Mathlib/Computability/DFA.lean [hunk 3]
```diff
@@ -250,6 +251,20 @@ end DFA
...
+  have ⟨σ', ⟨f⟩⟩ := Small.equiv_small.{v', v} (α := σ)
+  ⟨σ', Fintype.ofEquiv σ f, M.reindex f, hM ▸ DFA.accepts_reindex M f⟩
+
+/--
+A language is regular if and only if is defined by a DFA with finite states.
```
Comment (madvorak) [inline Mathlib/Computability/DFA.lean:263]: I am not sure what the comment should be. Somebody else please review it.

**Review by madvorak — APPROVED** [review]

**Comment by madvorak** [comment]
Thanks!

**Review by madvorak — APPROVED** [review]

**Comment by kim-em** [comment]
bors merge
